US07977358B2
A] N-[1-Pyridin-4-yl-meth-(E)-ylidene]-N′-(3-trifluoromethyl-phenyl)-hydrazine
3-(Trifluoromethyl)phenylhydrazine (176 mg, 1 mmol) in 5 ml of acetic acid were treated with sodium acetate (164 mg, 2 mmol) and pyridine-4-carbaldehyde (0.11 ml, 1 mmol) during 1 h at 50° C. The yellow solution was cooled and ammonium hydroxide 25% was added, the solid was collected, washed with water and recrystallized from EtOAc:n-heptane. The title compound was obtained as a yellow solid (195 mg, 74%). MS: 266.1 (MH+).

reactant | 3-(Trifluoromethyl)phenylhydrazine | 1 mmol, 176 mg | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | sodium acetate | 2 mmol, 164 mg | C(C)(=O)[O-].[Na+]
reactant | pyridine-4-carbaldehyde | 1 mmol, 0.11 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[1-Pyridin-4-yl-meth-(E)-ylidene]-N′-(3-trifluoromethyl-phenyl)-hydrazine | N1=CC=C(C=C1)\C=N\NC1=CC(=CC=C1)C(F)(F)F | C13H10F3N3
